US08067448B2
2-(3-Chloro-4-cyano-2-vinyl-phenylamino)-3-hydroxy-butyric acid
To a suspension of D-Threonine (0.299 g, 2.51 mmol) and K2CO3 (1.21 g, 8.72 mmol) in DMSO (24 mL) was added 3-(2-Bromo-ethyl)-2-chloro-4-fluoro-benzonitrile (572 mg, 2.18 mmol) at room temperature. The reaction mixture was heated to 85° C. and stirred for 18 h. The reaction mixture was allowed to cool to room temperature and quenched with H2O (20 mL) and extracted with EtOAc (3×60 mL). The aqueous layer was then acidified with solid citric acid and extracted with EtOAc (2×80 mL). The later organic extracts were combined, washed with H2O (3×30 mL), dried (Na2SO4), filtered and concentrated under reduced pressure to provided the title compound as a pale yellow solid (594 mg, 97%): 1H NMR (400 MHz, d6-acetone, δ in ppm) 7.48 (d, J=9 Hz, 1H), 6.74 (d, J=9 Hz, 1H), 6.63 (dd, J=12 and 18 Hz, 1H), 5.97 (d, J=9 Hz, 1H), 5.88 (dd, J=2 and 12 Hz, 1H), 5.78 (dd, J=2 and 18 Hz, 1H), 4.51-4.42 (m, 2H), 4.23-4.21 (m, 1H), and 1.24 (d, J=7 Hz, 3H).

reactant | D-Threonine | 2.51 mmol, 0.299 g | N[C@H]([C@@H](O)C)C(=O)O | C4H9NO3
reactant | K2CO3 | 8.72 mmol, 1.21 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-(2-Bromo-ethyl)-2-chloro-4-fluoro-benzonitrile | 2.18 mmol, 572 mg | BrCCC=1C(=C(C#N)C=CC1F)Cl | C9H6BrClFN
solvent | DMSO | 24 mL | CS(=O)C | C2H6OS
product | 2-(3-Chloro-4-cyano-2-vinyl-phenylamino)-3-hydroxy-butyric acid | 594 mg, 97% | ClC=1C(=C(C=CC1C#N)NC(C(=O)O)C(C)O)C=C | C13H13ClN2O3
